US07973164B2
5-(4-Methoxy-3-methoxycarbonylanilinomethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (28.9 g) was added portionwise to a mixture (200 ml) of biphenyl and diphenyl ether (‘Dowtherm A’) that had been warmed to 260° C. The solution was stirred at that temperature for 5 minutes. The resultant mixture was cooled to ambient temperature and added to a mixture of petroleum ether (250 ml) and diethyl ether (250 ml). The precipitate was collected by filtration and washed with petroleum ether. The material so obtained was purified by column chromatography on silica using increasingly polar solvent mixtures of methylene chloride and methanol (from 10:0 to 17:3) as eluent. There was thus obtained a 7:3 mixture (11.7 g) of 6-methoxy-7-methoxycarbonyl-1,4-dihydroquinolin-4-one and 6-methoxy-5-methoxycarbonyl-1,4-dihydroquinolin-4-one; 1H NMR: (DMSOd6) 3.85 (s, 3H), 3.88 (s, 3H), 6.05 (d, 1H), 7.61 (s, 1H), 7.87 (s, 1H), 7.94 (d, 1H) and 3.75 (s, 3H), 3.82 (s, 3H), 5.92 (d, 1H), 7.55 (d, 1H), 7.63 (d, 1H), 7.88 (m, 1H); Mass Spectrum: M+H+ 234.

reactant | 5-(4-Methoxy-3-methoxycarbonylanilinomethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 28.9 g | COC1=C(C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=C1)C(=O)OC | C16H17NO7
reactant | biphenyl | 200 ml | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 6-methoxy-7-methoxycarbonyl-1,4-dihydroquinolin-4-one | 11.7 g | COC=1C=C2C(C=CNC2=CC1C(=O)OC)=O | C12H11NO4
